US04870089
5-Amino-3-methyl-2-[1-(2,3-dihydro-2,2-dimethylbenzofuran-5-yl)-2,2,3,3,3-pentafluoropropoxy]pyridine was prepared from 2,2,3,3,3-pentafluoro-1-(2,3-dihydro-2,2-dimethylbenzofuran-5-yl)propan-1-one, by the method of Example 42. 2-Chloro-3-methyl-5-nitropyridine was used in place of 2-chloro-5-nitropyridine.

reactant | 2,2,3,3,3-pentafluoro-1-(2,3-dihydro-2,2-dimethylbenzofuran-5-yl)propan-1-one | FC(C(=O)C=1C=CC2=C(CC(O2)(C)C)C1)(C(F)(F)F)F | C13H11F5O2
reactant | 2-Chloro-3-methyl-5-nitropyridine | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
product | 5-Amino-3-methyl-2-[1-(2,3-dihydro-2,2-dimethylbenzofuran-5-yl)-2,2,3,3,3-pentafluoropropoxy]pyridine | NC=1C=C(C(=NC1)OC(C(C(F)(F)F)(F)F)C=1C=CC2=C(CC(O2)(C)C)C1)C | C19H19F5N2O2
